US07858613B2
(3-Trifluoromethylphenyl)thiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-4-ylmethyl)ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one (510 mg, 2.3 mmol) in 29 ml tetrahydrofuran were added, at room temperature, triethylamine (0.35 ml, 2.5 mmol) and 3-(trifluoromethyl)phenyl isothiocyanate (872 μl, 5.74 mmol). The mixture was heated to reflux for 72 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:2 ethyl acetate/hexane). The product was obtained in a yield of 483 mg (50%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one | 2.3 mmol, 510 mg | OCC1(C(C2=C(OCC1)C=CC=C2)=O)CO | C12H14O4
reactant | triethylamine | 2.5 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenyl isothiocyanate | 5.74 mmol, 872 μl | FC(C=1C=C(C=CC1)N=C=S)(F)F | C8H4F3NS
solvent | tetrahydrofuran | 29 ml | O1CCCC1 | C4H8O
product | (3-Trifluoromethylphenyl)thiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-4-ylmethyl)ester | OCC1(C(C2=C(OCC1)C=CC=C2)=O)COC(NC2=CC(=CC=C2)C(F)(F)F)=S | C20H18F3NO4S
